US04205082
8.7 g of 7-amino-4-methyl-coumarin are stirred, under nitrogen, in a round-bottomed flask, together with 7.6 g of glycollic acid at an oil bath temperature of 150°-160°. The reaction mass becomes crystalline after about 30 minutes. It is diluted with water and the product is filtered off with suction and recrystallised from 200 ml of dimethylformamide and 100 ml of ethanol. 7-Hydroxyacetamido-4-methyl-coumarin with a melting point of 253°-254° is obtained.

reactant | 7-amino-4-methyl-coumarin | 8.7 g | NC1=CC=C2C(=CC(OC2=C1)=O)C | C10H9NO2
reactant | glycollic acid | 7.6 g | C(C(=O)O)O | C2H4O3
solvent | water | O | H2O
product | 7-Hydroxyacetamido-4-methyl-coumarin | OCC(=O)NC1=CC=C2C(=CC(OC2=C1)=O)C | C12H11NO4
